US06630128B1
3,5-Dihexadecyloxy-benzaldehyde
The title compound was prepared according to the method described in Example 9 above from 1-bromohexadecane and 3,5-dihydroxy-benzaldehyde. The solid reaction product was collected by filtration and washed with methyl ethyl ketone (Soxhlet). The filtrate was evaporated under reduced pressure to give the title compound as a red oil which was crystallised from acetone.

reactant | 1-bromohexadecane | BrCCCCCCCCCCCCCCCC | C16H33Br
reactant | 3,5-dihydroxy-benzaldehyde | OC=1C=C(C=O)C=C(C1)O | C7H6O3
product | 3,5-Dihexadecyloxy-benzaldehyde | C(CCCCCCCCCCCCCCC)OC=1C=C(C=O)C=C(C1)OCCCCCCCCCCCCCCCC | C39H70O3
